US06060469
N-(3-Bromo-4-methoxyphenyl)acetamide
Acetic anhydride (3.11 ml, 3.37 g, 33 mmol) was added dropwise to a stirred, cooled (0° C.) solution of 3-bromo-4methoxyaniline (6.06 g, 30 mmol) in dichloromethane (60 ml). The mixture was stirred at room temperature for 90 minutes, methanol (10 ml) was added and the mixture was stirred at room temperature for 30 minutes. The solvent was evaporated under reduced pressure, saturated aqueous sodium hydrogen carbonate (100 ml) and water (50 ml) were added and the mixture was extracted with ethyl acetate (3×100 ml). The combined organic fractions were washed with aqueous hydrochloric acid (1M, 100 ml), saturated aqueous sodium hydrogen carbonate (100 ml) and brine (100 ml), dried (MgSO4) and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate (20 ml)/hexane (50 ml) and the solid was collected and dried in vacuo to give the title compound as a tan solid (6.41 g, 88%), 1H NMR (360 MHz, CDCl3) δ 7.68 (1H, d, J=2.5 Hz), 7.45 (1H, dd, J=8.8, 2.5 Hz), 7.36 (1H, br s), 6.84 (1H, d, J=8.8 Hz), 3.87 (3H, s), and 2.16 (3H, s).

reactant | Acetic anhydride | 33 mmol, 3.11 ml, 3.37 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-bromo-4methoxyaniline | 30 mmol, 6.06 g | BrC=1C=C(N)C=CC1OC | C7H8BrNO
reactant | methanol | 10 ml | CO | CH4O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | N-(3-Bromo-4-methoxyphenyl)acetamide | 6.41 g, 88% | BrC=1C=C(C=CC1OC)NC(C)=O | C9H10BrNO2
